US07696223B2
d) [(7-Hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (63 mg, 0.21 mmol) and glycine (317 mg, 4.22 mmol) in 0.5 M sodium methoxide/methanol (8 mL) was refluxed for 3 days before it was cooled to room temperature and concentrated in vacuo. Water (20 mL) was added and the suspension was adjusted to pH=10 with 1N HCl (3 mL). The mixture was extracted twice with dichloromethane. And the remaining aqueous layer was acidified to pH=3 with 1N HCl (1.5 mL). The white precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (36 mg): 1H NMR (DMSO-d6, 200 MHz): δ=9.49 (br s, 1H), 8.91 (s, 1H), 8.18 (m, 2H), 7.63 (m, 2H), 4.03 (d, J=5.8 Hz, 2H); MS: (+) m/z 329.9 (M+1)

reactant | 7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.21 mmol, 63 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=CC=C2)O | C15H12N2O3S
reactant | glycine | 4.22 mmol, 317 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 8 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 36 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)C2=CC=CC=C2 | C15H11N3O4S
